US05332739
To 100 ml of anhydrous tetrahydrofuran were added 5.37 g of 1,3-dimethyl-6-[4-(2-hydroxyethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione, 3.20 g of 4-nitrophenol and 6.03 g of triphenylphosphine, and the resultant mixture and 50 ml of an anhydrous tetrahydrofuran solution containing 3.9 g of diethyl azodicarboxylate were treated in the same manner as in Reference Example 4, thereby obtaining 5.40 g of crystalline 1,3-dimethyl-6-[4-(2-[4-nitrophenoxy] ethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione (Compound x).

reactant | 1,3-dimethyl-6-[4-(2-hydroxyethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 5.37 g | CN1C(N(C(C=C1N1CCN(CC1)CCO)=O)C)=O | C12H20N4O3
reactant | 4-nitrophenol | 3.20 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triphenylphosphine | 6.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.9 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,3-dimethyl-6-[4-(2-[4-nitrophenoxy] ethyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 5.40 g | CN1C(N(C(C=C1N1CCN(CC1)CCOC1=CC=C(C=C1)[N+](=O)[O-])=O)C)=O | C18H23N5O5
